US07851629B2
4-(2,3-difluorophenyl)-1-methylpiperidine
To a solution of 4-(2,3-difluorophenyl)piperidine (0.2 g, 1.01 mmol) in acetonitrile (10 ml), was added potassium carbonate (0.28 g, 2.0 mmol) and 1-iodomethane (0.06 ml, 1.0 mmol) and the mixture was stirred at ambient temperature for 1 h. MS m/z (rel. intensity, 70 eV) 211 (M+, 78), 210 (bp), 2140 (8), 127 (12), 97 (11).

reactant | 4-(2,3-difluorophenyl)piperidine | 1.01 mmol, 0.2 g | FC1=C(C=CC=C1F)C1CCNCC1 | C11H13F2N
reactant | potassium carbonate | 2.0 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodomethane | 1.0 mmol, 0.06 ml | IC | CH3I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(2,3-difluorophenyl)-1-methylpiperidine | FC1=C(C=CC=C1F)C1CCN(CC1)C | C12H15F2N
